US05478858
A solution of 1 -tert-butoxycarbonyl-4-methyl-5-benzimidazolylisothiocyanate (7.0 g) in CH2CI2 (600 mL) is added dropwise over 45 minutes to ethylenediamine (8 mL) in solution in CH2Cl2 (200 mL). The mixture is stirred for 3 hours at room temperature. Ether (150 mL) is added to the suspension and the mixture is stirred for 10 minutes at room temperature. The solid is filtered. The filtrate is rotary evaporated, the residue diluted with CH2Cl2 and reprecipitated with ether to afford a second crop. The combined solids are dried overnight in vacuo to afford N-(1-tert-butoxycarbonyl-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea as a white solid.

reactant | 1 -tert-butoxycarbonyl-4-methyl-5-benzimidazolylisothiocyanate | 7.0 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)N=C=S | C14H15N3O2S
reactant | ethylenediamine | 8 mL | C(CN)N | C2H8N2
reactant | Ether | 150 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(1-tert-butoxycarbonyl-4-methyl-5-benzimidazolyl)-N'-2-aminoethylthiourea | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)NC(=S)NCCN | C16H23N5O2S
